US09388189B2
b) (5-(3-Methoxybenzamido)pyridin-3-yl)boronic acid
N-(5-Bromopyridin-3-yl)-3-methoxybenzamide (3.07 g, 7.71 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (5.88 g, 23.16 mmol), potassium acetate (3.79 g, 38.62 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (950 mg, 1.16 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (640 mg, 1.16 mmol) were suspended in dioxane (60 ml) and stirred at 90° C. overnight. The mixture was diluted with ethyl acetate and washed with water and brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The crude was purified by reverse phase using SP1® Purification System to give 1 g (44% yield) of the title compound. Purity 93%.

reactant | N-(5-Bromopyridin-3-yl)-3-methoxybenzamide | 7.71 mmol, 3.07 g | BrC=1C=C(C=NC1)NC(C1=CC(=CC=C1)OC)=O | C13H11BrN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 23.16 mmol, 5.88 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 38.62 mmol, 3.79 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.16 mmol, 640 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (5-(3-Methoxybenzamido)pyridin-3-yl)boronic acid | 1 g, 44% yield | COC=1C=C(C(=O)NC=2C=C(C=NC2)B(O)O)C=CC1 | C13H13BN2O4
